US09024027B2
A mixture of tert-butyl 2-(4-amino-1,3-dioxoisoindolin-2-yl)acetate (712 mg, 2.58 mmol), triethylamine (1029 μl, 7.73 mmol) and methanesulfonyl chloride (602 μl, 7.73 mmol) in 20 ml of DCM was stirred overnight at room temperature. The mixture was washed with 1N HCl, brine and finally dried over sodium sulfate and evaporated; the residue was purified by flash chromatography (Hexane/EtOAc 3/1 to 1/1) yielding tert-butyl 2-(4-(N-(methylsulfonyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate as an off-white foam (0.96 g, 2.220 mmol, 86% yield, MS/ESI+ 454.8 [MNa]+) and used in the following reaction without further purification.

reactant | tert-butyl 2-(4-amino-1,3-dioxoisoindolin-2-yl)acetate | 2.58 mmol, 712 mg | NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C14H16N2O4
reactant | triethylamine | 7.73 mmol, 1029 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.73 mmol, 602 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(4-(N-(methylsulfonyl)methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 86% yield | CS(=O)(=O)N(S(=O)(=O)C)C1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C16H20N2O8S2
